US04444774
7-(3-Pyridyl)[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 2.54 g of 3-amino-1,2,4-triazole, 5.29 g of 3-dimethylamino-1-(3-pyridyl)-2-propene-1-one and 25 ml of glacial acetic acid was heated under reflux for 6 hours. The solvent was removed in vacuo and the solid residue was partitioned between a saturated aqueous sodium bicarbonate solution and dichloromethane. The organic layer was separated and dried over powdered anhydrous sodium sulfate. This solution was passed through a short column of a hydrous magnesium silicate and the effluent was refluxed on a steam bath with the gradual addition of hexane until crystallization was noted. On cooling the desired compound was separated and collection by filtration gave 1.95 g. of colorless crystals mp. 209°-210° C.

reactant | 3-amino-1,2,4-triazole | 2.54 g | NC1=NNC=N1 | C2H4N4
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propene-1-one | 5.29 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Pyridyl)[1,2,4]triazolo[1,5-a]pyrimidine | N1=CC(=CC=C1)C1=CC=NC=2N1N=CN2 | C10H7N5
